US07138425B2
b) 2-(3-Nitrophenyl)benzoxazole-6-carboxylic acid methyl ester
Prepared from the method of Example 15c), from 4-(3-nitrobenzamido)-3-hydroxybenzoic acid methyl ester (20 g, 63.0 mmol) and p-toluenesulfonic acid monohydrate (26.3 g, 138 mmol) the subtitle compound was obtained (3.05 g, 16%). 1H NMR (CDCl3) δ 9.13(t, 1H), 8.62(d, 1H), 8.44(dd, 1H), 8.33(s, 1H), 8.15(dd, 1H), 7.85(d, 1H), 7.77(t, 1H), 4.00(s, 3H).

reactant | 4-(3-nitrobenzamido)-3-hydroxybenzoic acid methyl ester | 63.0 mmol, 20 g | COC(C1=CC(=C(C=C1)NC(C1=CC(=CC=C1)[N+](=O)[O-])=O)O)=O | C15H12N2O6
reactant | p-toluenesulfonic acid monohydrate | 138 mmol, 26.3 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 2-(3-Nitrophenyl)benzoxazole-6-carboxylic acid methyl ester | COC(=O)C1=CC2=C(N=C(O2)C2=CC(=CC=C2)[N+](=O)[O-])C=C1 | C15H10N2O5
